US07589116B2
5-Methyl-1-[2′-(trifluoromethoxy)-1,1′-biphenyl-3-yl]-1H-pyrazole-3-carboxamide
To a solution of ethyl 1-(3-bromophenyl)-5-methyl-1H-pyrazole-3-carboxamide (0.237 g, 0.8 mmol) and 2-trifluoromethoxyphenyl boronic acid (0.262 g, 1.2 mmol) in n-propanol/toluene (1.27 ml:0.42 ml) mixture were added tetrakis(triphenylphosphine)palladium (0.019 g, 0.01 mmol) and 2M sodium carbonate (0.84 ml). The reaction mixture was heated at 90° C. for 16 hours, and then cooled and partitioned between ethyl acetate and water. The organic phase was washed with saturated sodium bicarbonate and brine, then dried over sodium sulfate and concentrated. The crude product was purified by silica-gel column chromatography (3.5:1.5 hexanes/acetone) to give the product (0.270 g, 88%) as a solid.

reactant | ethyl 1-(3-bromophenyl)-5-methyl-1H-pyrazole-3-carboxamide | 0.8 mmol, 0.237 g | C(C)C=1C(=NN(C1C)C1=CC(=CC=C1)Br)C(=O)N | C13H14BrN3O
reactant | 2-trifluoromethoxyphenyl boronic acid | 1.2 mmol, 0.262 g | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 2M, 0.84 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | n-propanol toluene | 1.27 ml | C(CC)O.C1(=CC=CC=C1)C
catalyst | tetrakis(triphenylphosphine)palladium | 0.01 mmol, 0.019 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Methyl-1-[2′-(trifluoromethoxy)-1,1′-biphenyl-3-yl]-1H-pyrazole-3-carboxamide | 0.270 g, 88% | CC1=CC(=NN1C=1C=C(C=CC1)C1=C(C=CC=C1)OC(F)(F)F)C(=O)N | C18H14F3N3O2
